US04808595
Step B: Preparation of 5-(Diethylaminomethyl)furo[2,3-b]pyridine
To a solution of N,N-diethyl furo[2,3-b]pyridine-5-carboxamide (3.6 g, 16.5 mmol) in dry tetrahydrofuran (35 mL), under a nitrogen atmosphere, was added 1M borane in THF (52 mL, 52 mmol). This solution was warmed at 60° C. for 2-3 hours and then glacial acetic acid (3 mL, 52 mmol) was carefully added. After 0.5 hours, dilute hydrochloric acid (10%) was added to the reaction and the aqueous layer was separated and made basic with sodium hydroxide solution. The product was extracted into methylene chloride, dried over anhydrous sodium sulfate, filtered through a pad of charcoal and the solvent evaporated to give crude oily product (2.6 g). This material was distilled under vacuum to give purified produt (1.2 g, 36% yield), bp: 120°-121° C./1.5 mmHg. A small portion was treated with ethanolic hydrogen chloride to give the hydrochloride salt which was recrystallized from isopropanol, mp: 206°-208° C.

reactant | N,N-diethyl furo[2,3-b]pyridine-5-carboxamide | 16.5 mmol, 3.6 g | C(C)N(C(=O)C=1C=C2C(=NC1)OC=C2)CC | C12H14N2O2
reactant | borane | 1M | B | BH3
reactant | acetic acid | 52 mmol, 3 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | THF | 52 mmol, 52 mL | C1CCOC1 | C4H8O
product | 5-(Diethylaminomethyl)furo[2,3-b]pyridine | 2.6 g, 36% yield | C(C)N(CC)CC=1C=C2C(=NC1)OC=C2 | C12H16N2O
